US09062070B2
Degassed tributyl(1-ethoxyvinyl)tin (200 mL, 591 mmol) was added to a stirred, room temperature mixture of 3-Bromo-6-fluoro-2-methyl-benzonitrile (115 g, 537 mmol) and cis-PdCl2(PPh3)2 (18.9 g, 26.9 mmol) in degassed Dioxane (1149 mL) and the mixture was stirred at 100° C. for 22 hours. By this time HPLC showed complete conversion of starting material (requires at least 12 hours), completion of the reaction can be seen by plating of palladium metal onto the side of the flask. At this time the reaction was cooled to 0° C. and THF (575 mL) and Water (230 mL) were added followed by NBS (110 g, 618 mmol) (added portionwise over 15 min, maintaining internal temperature<5° C.). After 30 minutes, HPLC showed full consumption of the intermediate enol ether. The solution was diluted with MTBE (1000 mL) and washed with 0.5% aqueous HBr (3×500 mL), then washed with water. The organics were dried over MgSO4, filtered and concentrated. A precipitate was generated, and the solid was filtered and washed several times with hexanes. It was dried by nitrogen sweep, providing 3-(2-Bromo-acetyl)-6-fluoro-2-methyl-benzonitrile.

reactant | tributyl(1-ethoxyvinyl)tin | 591 mmol, 200 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | 3-Bromo-6-fluoro-2-methyl-benzonitrile | 537 mmol, 115 g | BrC=1C(=C(C#N)C(=CC1)F)C | C8H5BrFN
reactant | THF | 575 mL | C1CCOC1 | C4H8O
reactant | NBS | 618 mmol, 110 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | Dioxane | 1149 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
solvent | Water | 230 mL | O | H2O
product | 3-(2-Bromo-acetyl)-6-fluoro-2-methyl-benzonitrile | BrCC(=O)C=1C(=C(C#N)C(=CC1)F)C | C10H7BrFNO
